US07109229B2
(b) 1-Methyl-5-fluoro-7-bromoindole
To a suspension of sodium hydride (60%, 1.75 g, 43.8 mmol) in DMF (134 mL) was added a solution of 5-fluoro-7-bromoindole (7.8 g, 36.4 mmol) in DMF (10 mL). After 1 h at room temperature, the mixture was treated with methyl iodide (3.4 mL, 54.6 mmol) with cooling in an ice-water bath. The reaction mixture was allowed to warm up room temperature and stirred overnight. The reaction was quenched with water, extracted with ethyl acetate, and the organic layer was washed with water and brine, dried (sodium sulfate) and concentrated to give a crude product, which was used without further purification. 1H NMR (400 MHz, CDCl3) 4.06 (s, 3H), 6.34 (d, J=3.13 Hz, 1H), 6.96 (d, J=3.13 Hz, 1H), 7.07 (dd, J1=2.34 Hz, J2=8.60 Hz, 1H), 7.12 (dd, J1=2.34 Hz, J2=9.0 Hz, 1H).

reactant | sodium hydride | 43.8 mmol, 1.75 g | [H-].[Na+]
reactant | 5-fluoro-7-bromoindole | 36.4 mmol, 7.8 g | FC=1C=C2C=CNC2=C(C1)Br | C8H5BrFN
reactant | methyl iodide | 54.6 mmol, 3.4 mL | CI | CH3I
solvent | DMF | 134 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-Methyl-5-fluoro-7-bromoindole | CN1C=CC2=CC(=CC(=C12)Br)F | C9H7BrFN
